US04299821
2.29 g (10 mmoles) of BOC-HPro-OH are dissolved in 30 ml of ethyl acetate, 1.4 ml (10 mmoles) of triethylamine are added to the solution, and then 1.3 ml (10 mmoles) of isobutyl chloroformate are added dropwise at -10° C. After 15 minutes of stirring gaseous ammonia is passed through the mixture at -10° C. for 0.5 hours, and the resulting mixture is allowed to stand at 0°-5° C. for 2 hours. The separated precipitate is filtered off, the filtrate is evaporated, and the oily residue is dissolved in 30 ml of chloroform. The solution is shaken twice with 10 ml of n hydrochloric acid, each, twice with 10 ml of n sodium hydrocarbonate solution, each, and then with 10 ml of water, dried over anhydrous sodium sulfate and evaporated. The oily residue is crystallized from n-hexane, and the resulting 1.96 g of crude product are recrystallized from a mixture of ethyl acetate and ether. 1.78 g (78%) of BOC-HPro-NH2 are obtained; m.p.: 138°-140° C., Rf2 =0.43, [α]D25 =-24.85° (c=1%, in acetic acid).

reactant | BOC-HPro-OH | 10 mmoles, 2.29 g | N1([C@H](C(=O)O)CCCC1)C(=O)OC(C)(C)C | C11H19NO4
reactant | triethylamine | 10 mmoles, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 10 mmoles, 1.3 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | N | H3N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | BOC-HPro-NH2 | 1.78 g, 78% | N1([C@H](C(=O)N)CCCC1)C(=O)OC(C)(C)C | C11H20N2O3
